US09029545B2
N-(2-Bromo-3,6-dimethylthieno[2,3-b]pyridin-4-yl)-3-chlorobenzenesulfonamide
To a solution of 2-bromo-3,6-dimethylthieno[2,3-b]pyridin-4-amine (Description 62) (1.351 g, 5.25 mmol) in THF (10 mL) was added 3-chlorobenzenesulfonyl chloride (1.11 mL, 7.88 mmol), sodium tert-butoxide (1.262 g, 13.13 mmol) and the mixture stirred at RT for 16 h. The mixture was then evaporated to dryness and the resulting material taken-up in water (10 mL) and extracted with ethyl acetate (20 mL×3). The organics were then combined, dried (phase separation cartridge) and concentrated. Purification on silica, eluting with a gradient of 0-20% ethyl acetate in cyclohexane, followed by MDAP (acidic conditions), afforded the title compound (380 mg). LCMS (A) m/z: 431/433 [M+1]+, Rt 1.22 min (acidic).

reactant | 2-bromo-3,6-dimethylthieno[2,3-b]pyridin-4-amine | 5.25 mmol, 1.351 g | BrC1=C(C2=C(N=C(C=C2N)C)S1)C | C9H9BrN2S
reactant | 3-chlorobenzenesulfonyl chloride | 7.88 mmol, 1.11 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | sodium tert-butoxide | 13.13 mmol, 1.262 g | CC(C)([O-])C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(2-Bromo-3,6-dimethylthieno[2,3-b]pyridin-4-yl)-3-chlorobenzenesulfonamide | 380 mg | BrC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC(=CC=C2)Cl)C)S1)C | C15H12BrClN2O2S2
